US09216980B2
Step 3: 3-Bromo-6-fluoro-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
A solution of 5-bromo-2,6′-difluoro-[3,4′]bipyridinyl-3′-ylamine (0.79 g, 2.76 mmol) in THF (15 mL) was added dropwise over 10 minutes to sodium bis(trimethylsilyl)amide (1N solution in THF, 5.5 mL, 5.52 mmol). The reaction mixture was left to stir for 20 minutes then quenched by the addition of water (2 mL). The resultant black solution was partitioned between ethyl acetate (75 mL) and water (50 mL) and the layers separated. The organic phase was dried over sodium sulfate, filtered and evaporated in vacuo to give an off white solid. The resultant solid was triturated with ethyl acetate (30 mL), collected by filtration, washed with diethyl ether (5 mL) and left to air dry to afford the title compound as an off white solid (0.51 g, 65%). 1H NMR (DMSO-D6, 300 MHz): 9.00 (d, J=2.3 Hz, 1H), 8.69 (d, J=2.3 Hz, 1H), 8.51 (dd, J=1.7, 0.9 Hz, 1H), 7.95 (dd, J=2.4, 0.9 Hz, 1H). LCMS (Method B): RT=3.10 min, M+H+=266/268.

reactant | 5-bromo-2,6′-difluoro-[3,4′]bipyridinyl-3′-ylamine | 2.76 mmol, 0.79 g | BrC=1C=C(C(=NC1)F)C1=C(C=NC(=C1)F)N | C10H6BrF2N3
reactant | sodium bis(trimethylsilyl)amide | 5.52 mmol, 1N, 5.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-Bromo-6-fluoro-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | BrC1=CC2=C(NC3=C2C=C(N=C3)F)N=C1 | C10H5BrFN3
